US07259159B2
7a) N,N′-bis-(Naphthalene-1-sulfonyl)-(R)-cystine-bis-tert-butyl ester
Preparation in analogy to example 6a from 1 g (2.35 mmol) of (R)-cystine-bis-tert-butylester and 1.32 g (5.8 mmol) of 1-naphthalenesulfonic acid chloride. Yield: 1.78 g (oily crystals).

reactant | (R)-cystine-bis-tert-butylester | 2.35 mmol, 1 g | C(C)(C)(C)OC([C@H](CSSC[C@@H](C(=O)OC(C)(C)C)N)N)=O | C14H28N2O4S2
reactant | 1-naphthalenesulfonic acid chloride | 5.8 mmol, 1.32 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N,N′-bis-(Naphthalene-1-sulfonyl)-(R)-cystine-bis-tert-butyl ester | C(C)(C)(C)OC([C@H](CSSC[C@@H](C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C34H40N2O8S4
